US08431563B2
A solution of ((2S)-4-(2-thiophenylsulfonyl)-1-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-2-piperazinyl)acetic acid hydrochloride (1.55 g, 3.01 mmol), N,O-dimethylhydroxylamine hydrochloride (0.323 g, 3.31 mmol, Sigma-Aldrich, St. Louis, Mo.), and Hünig's base (1.05 mL, 6.02 mmol) in DMF (20 mL) was stirred at 0° C. To this mixture was added HATU (1.26 g, 3.31 mmol). The reaction was stirred for 3 h at room temperature and then diluted with EtOAc (30 mL) and water (20 mL). The organic layer was separated and then washed with water (2×20 mL) and brine (20 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated. The crude material was absorbed onto silica gel and purified via column chromatography (80 g silica gel, 0 to 100% EtOAc in hexanes) to give N-methoxy-N-methyl-2-((2S)-4-(2-thiophenylsulfonyl)-1-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-2-piperazinyl)acetamide (1.48 g) as an orange oil.

reactant | ((2S)-4-(2-thiophenylsulfonyl)-1-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-2-piperazinyl)acetic acid hydrochloride | 3.01 mmol, 1.55 g | Cl.S1C(=CC=C1)S(=O)(=O)N1C[C@@H](N(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C)O)CC(=O)O
reactant | N,O-dimethylhydroxylamine hydrochloride | 3.31 mmol, 0.323 g | Cl.CNOC
reactant | Hünig's base | 6.02 mmol, 1.05 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 3.31 mmol, 1.26 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | water | 20 mL | O | H2O
product | N-methoxy-N-methyl-2-((2S)-4-(2-thiophenylsulfonyl)-1-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-2-piperazinyl)acetamide | 1.48 g | CON(C(C[C@@H]1N(CCN(C1)S(=O)(=O)C=1SC=CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C)O)=O)C | C21H26F3N3O5S2
